US08017605B2
Step B: 2,6-difluoro-4-methylbenzaldehyde
To a solution of 1,3-difluoro-5-methylbenzene (10.2 g, 80 mmol) in anhydrous ether (80 mL) was added n-BuLi (2.5 M solution in hexane, 48 ml, 120 mmol) over a 20 min period while the internal temperature was maintained at around −50° C. After stirring at that temperature for 1.5 hr, DMF (14.6 g, 200 mmol) was added over a 20 min period. After stirring at the same temperature for an additional 1.5 h, the reaction mixture was slowly poured into 1N aqueous sulfuric acid (300 mL) and extracted with ether three times. The combined organic layers were washed with brine, dried over anhydrous MgSO4, filtered and concentrated to give the title compound (11.2 g, 90%). 1H-NMR (500 MHz, CDCl3): δ 10.25 (s, 1H), 6.75 (d, 2H, J=9.9 Hz), 2.39 (s, 3H).

reactant | 1,3-difluoro-5-methylbenzene | 80 mmol, 10.2 g | FC1=CC(=CC(=C1)C)F | C7H6F2
reactant | n-BuLi | 120 mmol, 2.5 M, 48 ml | [Li]CCCC
reactant | DMF | 200 mmol, 14.6 g | CN(C)C=O | C3H7NO
reactant | sulfuric acid | 1N, 300 mL | S(O)(O)(=O)=O | H2O4S
solvent | ether | 80 mL | CCOCC | C4H10O
product | 2,6-difluoro-4-methylbenzaldehyde | 11.2 g, 90% | FC1=C(C=O)C(=CC(=C1)C)F | C8H6F2O
